US08030495B2
(1R,2S,5S)-2-{[(4-fluorobenzyl)oxy]methyl}-3-[(2-methyl-5-phenyl-1,3-thiazol-4-yl)carbonyl]-3-azabicyclo[3.1.0]hexane (6-1)
To a solution of {(1R,2S,5S)-3-[(2-methyl-5-phenyl-1,3-thiazol-4-yl)carbonyl]-3-azabicyclo[3.1.0]hex-2-yl}methanol (0.025 g, 0.080 mmol) in THF (0.50 mL) at 0° C. was added sodium hydride (60% dispersion in mineral oil, 0.008 g, 0.206 mmol) followed by 4-fluorobenzylbromide (0.039 g, 0.206 mmol) and the system was stirred at 0° C. for 3 h. The mixture was then quenched with ice, extracted with EtOAc, purified using reverse phase conditions (5%→85% 0.1% TFA in water: 0.1% TFA in acetonitrile) followed by free basing with saturated sodium carbonate to afford the title compound as a clear oil. 1H NMR (500 MHz, CDCl3) δ 7.43-7.42 (m, 2H), 7.36-7.33 (m, 4H), 7.08-7.02 (m, 3H), 4.64 (m, 1H), 4.52 (m, 1H), 4.43 (m, 2H), 3.42 (m, 1H), 3.29 (m, 1H), 3.14 (m, 1H), 2.71 (s, 3H), 1.84 (m, 1H), 1.60 (m, 1H), 1.43 (m, 1H), 0.560 (m, 1H). HRMS [M+H] C24H23F1N2O2S1 calc'd 423.1537, found 423.1542.

reactant | {(1R,2S,5S)-3-[(2-methyl-5-phenyl-1,3-thiazol-4-yl)carbonyl]-3-azabicyclo[3.1.0]hex-2-yl}methanol | 0.080 mmol, 0.025 g | CC=1SC(=C(N1)C(=O)N1[C@@H]([C@@H]2C[C@@H]2C1)CO)C1=CC=CC=C1 | C17H18N2O2S
reactant | sodium hydride | 0.206 mmol, 0.008 g | [H-].[Na+]
reactant | 4-fluorobenzylbromide | 0.206 mmol, 0.039 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | THF | 0.50 mL | C1CCOC1 | C4H8O
product | (1R,2S,5S)-2-{[(4-fluorobenzyl)oxy]methyl}-3-[(2-methyl-5-phenyl-1,3-thiazol-4-yl)carbonyl]-3-azabicyclo[3.1.0]hexane | FC1=CC=C(COC[C@@H]2[C@@H]3C[C@@H]3CN2C(=O)C=2N=C(SC2C2=CC=CC=C2)C)C=C1 | C24H23FN2O2S
